Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-4.0492602603500005
[C:1]#[C:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:1]#[C:2].[C:3]#[C:4][O:5][C:6]([H:7])[H:8],6.85001589852
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-3.8042772254
[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:10][H:11],3.28444481028
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-6.7087447239
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[H:13].[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.18903568427
[H:13].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.922972797869999
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@@:3]1([H:4])[C:5][O:7][C:8]1[C:9]([H:10])([H:11])[H:12].[H:6],3.91856688102
[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.98197413799
[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.37189082813
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3],3.2257440565
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],2.41527682432
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.13306559836
[C:1]#[C:2].[C:3]([H:4])#[C:5][O:6]>>[C:1]#[C:2][C:3]([H:4])=[C:5]=[O:6],-6.07696219832
[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.965969594630001
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],2.13373663873
[H:10].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.57948118553
[H:1][C:2]([H:3])=[C:4][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-5.12093538346
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3][O:4][C:5]#[C:6],7.248831984439999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:9]([H:10])[H:11].[H:8],3.79002303966
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.90562033165
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9],-3.85713171388
[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.44980082868
[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.60925919
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.87770426881
[H:1][O:2].[H:3]>>[H:1][O:2][H:3],-6.50057736507
[H:10].[H:1][C:2][O:3][C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-2.47958835628
[C:2][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:1][C:4]#[C:3]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-5.8621432222
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.78797710966
[H:1][C:2][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.53662614855
